US09447106B2
A mixture of 5-amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carboxamide (29.4 mg, 0.1 mmol) and 2-bromo-1-(3-nitrophenyl)ethanone (24.4 mg, 0.1 mmol) in EtOH (2 mL) was stirred at 80° C. for 16 hr. The mixture was filtered to afford 5 mg of crude 2-(3-nitrophenyl)-6-(4-phenoxyphenyl)-1H-imidazo[1,2-b]pyrazole-7-carboxamide as a yellow solid. MS (ESI) m/e [M+1]+ 440.0.

reactant | 5-amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carboxamide | 0.1 mmol, 29.4 mg | NC1=C(C(=NN1)C1=CC=C(C=C1)OC1=CC=CC=C1)C(=O)N | C16H14N4O2
reactant | 2-bromo-1-(3-nitrophenyl)ethanone | 0.1 mmol, 24.4 mg | BrCC(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C8H6BrNO3
solvent | EtOH | 2 mL | CCO | C2H6O
product | 2-(3-nitrophenyl)-6-(4-phenoxyphenyl)-1H-imidazo[1,2-b]pyrazole-7-carboxamide | 5 mg | [N+](=O)([O-])C=1C=C(C=CC1)C=1NC=2N(N=C(C2C(=O)N)C2=CC=C(C=C2)OC2=CC=CC=C2)C1 | C24H17N5O4
